* E:\Documents\Masters\Project\Simulation\Draft2.asc
* Generated by LTspice 24.1.9 for Windows.
D1 +12V N001 MBRS360
C1 N001 Mot 1µ V=50 Irms=0 Rser=0.0444 Lser=799p mfg="Würth Elektronik" pn="885012209047 WCAP-CSGP 1210" type="X7R"
V1 Cbulk 0 29
R1 Mot N007 .5m tol=1 pwr=3
L5 N008 N007 70µ
C3 N008 0 10µ
R3 N012 0 40.2K tol=1 pwr=0.1
C2 Cbulk 0 10000µ V=63 Irms=4.69 Rser=0.0175 Lser=20.255n mfg="Würth Elektronik" pn="861140786024 WCAP-AI3H 35x52" type="Al electrolytic"
C4 Cbulk 0 10µ V=50 Irms=0 Rser=0.003 Lser=1.2n mfg="Würth Elektronik" pn="885012214005 WCAP-CSGP 2220" type="X7R"
C5 Cbulk 0 75µ V=900 Irms=25.7 Rser=0.0043 Lser=41n mfg="Würth Elektronik" pn="890724429010CS WCAP-FTDB 52.5x57x65x45x4" type="Box"
R4 +12V N002 10
R5 +12V N006 51k
V2 +12V 0 12
V3 +3V3 0 3.3
V4 Clock 0 PULSE(0 3.3 0 1n 1n {1/20k} {1/10k})
V5 N003 0 3.3
R6 N005 N004 5
R7 N010 N009 5
X§U2 Cbulk Mot 0 N005 N010 ISG0613N04NM6H_L1
X§U3 N011 N003 N006 N012 N002 +12V 0 N009 Mot N004 N001 0 LTC7063
X§U1 N007 0 Vref Iout +3V3 Vref Mot AD8411A
V6 Vref 0 0
A2 Clock N015 0 0 0 N013 0 0 SRFLOP Vhigh=3.3 Vlow=0
A1 0 Clock 0 N013 0 0 N011 0 AND Vhigh=3.3 Vlow=0
V8 VLoad 0 PULSE(1 10 2m 100u 10n 4m 7m)
R2 N008 0 2
R8 N017 0 50
R9 N018 N017 10k
R11 +3V3 N016 10k
R12 N016 0 750
X§U4 N016 Iout +3V3 0 N015 LT1017
.model D D
.lib C:\Users\conor\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 10m 0
.INCLUDE MOSFETS\OptiMOS6\OptiMOS6_40V_Halfbridges_LTSpice.lib
.options reltol=1e-3 abstol=5u
.lib AD8411A.sub
.lib LT1017.sub
.lib LTC7063.sub
.backanno
.end
